US04605652
2-Amino-N-(1-azabicyclo[2.2.2]oct-3-yl)-4-methoxy-5-pyrimidinecarboxamide
Following the procedure of Example 22, 2-amino-4-methoxy-5-pyrimidinecarboxylic acid, 1,1'-carbonyldiimidazole and 3-aminoquinuclidine are reacted to give the title compound.

reactant | 2-amino-4-methoxy-5-pyrimidinecarboxylic acid | NC1=NC=C(C(=N1)OC)C(=O)O | C6H7N3O3
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-aminoquinuclidine | NC1CN2CCC1CC2 | C7H14N2
product | 2-Amino-N-(1-azabicyclo[2.2.2]oct-3-yl)-4-methoxy-5-pyrimidinecarboxamide | NC1=NC=C(C(=N1)OC)C(=O)NC1CN2CCC1CC2 | C13H19N5O2
